US07786132B2
1-(2-(4-(5-(4-Fluorobenzyl)thiazol-2-yl)-5-fluoropyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
5-(4-Fluorobenzyl)thiazole was condensed with 2-chloro-5-fluoropyrimidine and subsequently aminated with 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione using procedures analogous to those in Example 24. MS (M+H)+ 459.

reactant | 5-(4-Fluorobenzyl)thiazole | FC1=CC=C(CC2=CN=CS2)C=C1 | C10H8FNS
reactant | 2-chloro-5-fluoropyrimidine | ClC1=NC=C(C=N1)F | C4H2ClFN2
reactant | 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
product | 1-(2-(4-(5-(4-Fluorobenzyl)thiazol-2-yl)-5-fluoropyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | FC1=CC=C(CC2=CN=C(S2)C2=NC(=NC=C2F)NCCN2C(NC(C2(C)C)=O)=O)C=C1 | C21H20F2N6O2S
